US04282365
Step A: 6,11-Dihydro-11-oxodibenz[b,e]oxepin-2-carboxaldehyde
Heat a mixture of 5.0 gm. of 2-cyano-6.11-dihydro-11-oxodibenz[b,e]oxepin and 4.0 gm. of Raney nickel alloy in 60 ml. of 75% (v/v) aqueous formic acid at reflux for 1.5 hours. Cool to room temperature and filter. Concentrate to small volume and extract with methylene chloride. Wash the extract with water and with 1 N sodium bicarbonate until neutral. Dry the neutral extract over sodium sulfate and concentrate to dryness to obtain the title product.

reactant | 2-cyano-6.11-dihydro-11-oxodibenz[b,e]oxepin | C(#N)C1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C15H9NO2
reactant | formic acid | C(=O)O | CH2O2
catalyst | Raney nickel | [Ni] | Ni
product | 6,11-Dihydro-11-oxodibenz[b,e]oxepin-2-carboxaldehyde | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C=O | C15H10O3
